US06025350
N-(tert-Butoxycarbonyl)-2-(2-Methoxyphenyl)-4-hydroxypiperidine
To a solution of 2-(2-methoxyphenyl)4-hydroxypiperidine (1.15 g, 5.66 mmol) in CH2Cl2 (10 mL) was added di-tert-butyl dicarbonate (1.3 g, 5.94 mmol) and the resulting solution was stirred at room temperature for 30 minutes. The solution was evaporated in vacuo and the residue was dissolved in ether and H2O. The aqueous layer was extracted with ether (x4), the combined ether layers were washed with brine, dried over Na2SO4, and evaporated in vacuo to give the title compound as a colorless oil (0.9 g). 1H NMR (CDCl3, 400 MHz) δ:3.81 (3H, s, OMe), 1.24 (9H, Bu-t).

reactant | 2-(2-methoxyphenyl)4-hydroxypiperidine | 5.66 mmol, 1.15 g | COC1=C(C=CC=C1)C1NCCC(C1)O | C12H17NO2
reactant | di-tert-butyl dicarbonate | 5.94 mmol, 1.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-Butoxycarbonyl)-2-(2-Methoxyphenyl)-4-hydroxypiperidine | 0.9 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)O)C1=C(C=CC=C1)OC | C17H25NO4
